US07365083B2
c) 2-Oxo-1,2,3,5-tetrahydro-imidazo[4,5-f]indole-6-carboxylic Acid
The title compound is prepared from ethyl 2-oxo-1,2,3,5-tetrahydro-imidazo[4,5-f]indole-6-carboxylate according to the method described in Example 1/b. Mp.: >270° C. (water).

reactant | ethyl 2-oxo-1,2,3,5-tetrahydro-imidazo[4,5-f]indole-6-carboxylate | O=C1NC=2C(=CC=3C=C(NC3C2)C(=O)OCC)N1 | C12H11N3O3
solvent | water | O | H2O
product | 2-Oxo-1,2,3,5-tetrahydro-imidazo[4,5-f]indole-6-carboxylic Acid | O=C1NC=2C(=CC=3C=C(NC3C2)C(=O)O)N1 | C10H7N3O3
